US04880799
b. methyl (o-aminobenzylthio)-acetate
Methyl (o-nitrobenzylthio)-acetate (24.4 g) was dissolved in ethanol (500 ml). Raney nickel was added and the mixture was hydrogenated at room temperature and 1 atm. of hydrogen pressure. The title compound was obtained as an oil after filtration and evaporation of the reaction mixture.

reactant | Methyl (o-nitrobenzylthio)-acetate | 24.4 g | [N+](=O)([O-])C1=C(CSCC(=O)OC)C=CC=C1 | C10H11NO4S
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
product | methyl (o-aminobenzylthio)-acetate | NC1=C(CSCC(=O)OC)C=CC=C1 | C10H13NO2S
